US07265120B2
To a suspension of NaH (60% in oil suspension) (31.1 mg) in 1,2-dimethyl-2-imidazolidinone (0.6 ml) was added 2-phenylethanol (0.094 ml) and the mixture was stirred at 25-30° C. for 30 minutes. 6-[5-Amino-6-(methylsulfonyl)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (150 mg) was added and the mixture was heated at 100-105° C. for 15 hours. To the mixture was added 0.1N HCl (3 ml) and an aqueous layer was removed by decantation to give a residue. The residue was dissolved in CHCl3, dried over MgSO4, concentrated under reduced pressure and purified by column chromatography on silica gel. By elution with a mixture of n-hexane and EtOAc (60:40 v/v) was obtained 6-[5-amino-3-phenyl-6-(2-phenylethoxy)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone as a solid (9 mg). By elution with a mixture of MeOH and EtOAc (1:99 v/v) was obtained 6-(5-amino-6-oxo-3-phenyl-1,6-dihydro-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone as a solid (89 mg).

reactant | NaH | 31.1 mg | [H-].[Na+]
reactant | 2-phenylethanol | 0.094 ml | C1(=CC=CC=C1)CCO | C8H10O
reactant | 6-[5-Amino-6-(methylsulfonyl)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 150 mg | NC=1N=C(C(=NC1S(=O)(=O)C)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C18H19N5O3S
reactant | HCl | 0.1N, 3 ml | Cl | ClH
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 6-[5-amino-3-phenyl-6-(2-phenylethoxy)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 9 mg | NC=1N=C(C(=NC1OCCC1=CC=CC=C1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C25H25N5O2
